US05254575
A mixture of 4-(4-methoxyphenyl)-thiazole-2-carbonitrile (14.9 g) and pyridine hydrochloride (44.7 g) was heated at 225° C. for 1 h, then cooled and added to water (300 ml). The suspension was filtered and dried under vacuum at 50° C., to give a solid which was dissolved in methanol, treated with charcoal, filtered and recrystallised from methanol-water to give 4-(4-hydroxyphenyl)-thiazole-2-carbonitrile (9.2 g); m.p. 186°-197 ° C.

reactant | 4-(4-methoxyphenyl)-thiazole-2-carbonitrile | 14.9 g | COC1=CC=C(C=C1)C=1N=C(SC1)C#N | C11H8N2OS
reactant | pyridine hydrochloride | 44.7 g | Cl.N1=CC=CC=C1
reactant | water | 300 ml | O | H2O
reactant | charcoal | C | CH4
solvent | methanol | CO | CH4O
product | 4-(4-hydroxyphenyl)-thiazole-2-carbonitrile | 9.2 g | OC1=CC=C(C=C1)C=1N=C(SC1)C#N | C10H6N2OS
